US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-(4-fluoro-3-methoxyphenyl)-1-piperazinecarboxamide
As described for example 78, 4-fluoro-3-methoxy-aniline, 4-nitrophenyl chloroformate, diisopropyl(ethyl)amine, and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product as a light yellow solid. LC-MS: 430 (M++1). 1H NMR (CD3OD) δ 8.25 (m, 2H), 7.82 (m, 1H), 7.45 (s, 1H), 7.40 (d, 2H), 7.20 (d, 1H), 6.40 (s, 1H), 3.95 (s, 3H), 3.80 (m, 4H), 3.25 (m, 4H).

reactant | 4-fluoro-3-methoxy-aniline | FC1=C(C=C(N)C=C1)OC | C7H8FNO
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropyl(ethyl)amine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-(4-fluoro-3-methoxyphenyl)-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC1=CC(=C(C=C1)F)OC)Cl | C21H21ClFN5O2
